US08304419B2
Step A: N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}acetamide
Benzyloxyacetaldehyde (1.5 g, 10.0 mmol) was added dropwise to a stirred solution of sodium cyanide (0.61 g, 12.4 mmol) and ammonium chloride (0.79 g, 14.8 mmol) in 25% ammonium hydroxide (5 mL). The solution was stirred at RT for 48 h, then extracted with CH2Cl2 (20 mL). The organic extract was washed with brine, dried (Na2SO4) and filtered. The filtrate was cooled to 0° C., and pyridine (1.3 mL, 16.1 mmol) was added followed by acetyl chloride (1.1 mL, 15.5 mmol). The reaction mixture was stirred for 2 h at 0° C. Water was added (10 mL) and the organic phase was separated and washed with 1 N HCl (20 mL), dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel flash column chromatography (5-50% EtOAc:hexanes) to give the title compound (1.60 g, 65%) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.33-7.44 (m, 5H), 6.14 (br. s., 1H), 5.05-5.12 (m, 1H), 4.65 (ABq, 2H), 3.69 (ABq, 2H), 2.04 (s, 3H).

reactant | Benzyloxyacetaldehyde | 10.0 mmol, 1.5 g | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | sodium cyanide | 12.4 mmol, 0.61 g | [C-]#N.[Na+]
reactant | ammonium chloride | 14.8 mmol, 0.79 g | [Cl-].[NH4+]
reactant | pyridine | 16.1 mmol, 1.3 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 15.5 mmol, 1.1 mL | C(C)(=O)Cl | C2H3ClO
solvent | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | Water | O | H2O
product | N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}acetamide | 1.60 g, 65% | C(#N)C(COCC1=CC=CC=C1)NC(C)=O | C12H14N2O2
